US08563717B2
Intermediate 18: 2-(Butyloxy)-8-(methyloxy)-9H-purin-6-amine
2-(Butyloxy)-8-(methyloxy)-9H-purin-6-amine trifluoroacetate (2.4 g, 6.83 mmol) was dissolved in methanol/dichloromethane (1:1, 20 ml) and loaded onto a preconditioned aminopropyl SPE (50 g). The cartridge was eluted with methanol/dichloromethane (1:1, 200 ml) and the solvent concentrated in vacuo to give the title compound as a white solid (1.38 g).

reactant | 2-(Butyloxy)-8-(methyloxy)-9H-purin-6-amine trifluoroacetate | 6.83 mmol, 2.4 g | FC(C(=O)O)(F)F.C(CCC)OC1=NC(=C2N=C(NC2=N1)OC)N
solvent | methanol dichloromethane | 20 ml | CO.ClCCl
product | 2-(Butyloxy)-8-(methyloxy)-9H-purin-6-amine | 1.38 g | C(CCC)OC1=NC(=C2N=C(NC2=N1)OC)N | C10H15N5O2
